US07067517B2
cis-2-(4-Hydroxy-phenyl)-hexahydro-isoindole-1,3-dione
A mixture of 4-aminophenol (5.46 g, 50.0 mmol) and cis-1,2-cyclohexanedicarboxylic anhydride (7.71 g, 50.0 mmol) was heated in a round bottom flask at 170° C. for 2 h. After cooling to room temperature the solid material was dissolved in hot ethanol (200 ml), activated charcoal was added and the solution was heated at reflux for 1 h. The solid material was removed by hot filtration. The solvent was partially evaporated. The solids were collected by filtration, washed quickly with a small amount of ethanol and dried in vacuo at 40° C. yielding the title compound (8.52 g, 69% yield, pink solid).

reactant | 4-aminophenol | 50.0 mmol, 5.46 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 50.0 mmol, 7.71 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | charcoal | C | CH4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | cis-2-(4-Hydroxy-phenyl)-hexahydro-isoindole-1,3-dione | 8.52 g, 69% yield | OC1=CC=C(C=C1)N1C([C@H]2CCCC[C@H]2C1=O)=O | C14H15NO3
